US06699862B1
To a 10° C. solution of 4-formyl benzonitrile (65.6 gm, 0.500 mol), 4-methyl-3-nitro benzonitrile (81.1 gm, 0.500 mol) and 750 mL of dry dimethylsulfoxide (DMSO), was added sodium methylate (4.01 gm, 75 mmol) in one portion. After 4 hrs, the reaction was added dropwise to 6 L of ice water and then allowed to stir for 1 hr. The product was collected via vacuum filtration and washed with water (3×1 L) and then dried over night in a vacuum oven at 40° C. to give 2-(4-cyano-2-nitro-phenyl)-1-(4-cyano-phenyl)-ethanol.

reactant | 4-formyl benzonitrile | 0.500 mol, 65.6 gm | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | 4-methyl-3-nitro benzonitrile | 0.500 mol, 81.1 gm | CC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C8H6N2O2
reactant | sodium methylate | 75 mmol, 4.01 gm | C[O-].[Na+]
solvent | dimethylsulfoxide | 750 mL | CS(=O)C | C2H6OS
product | 2-(4-cyano-2-nitro-phenyl)-1-(4-cyano-phenyl)-ethanol | C(#N)C1=CC(=C(C=C1)CC(O)C1=CC=C(C=C1)C#N)[N+](=O)[O-] | C16H11N3O3
